US07795267B2
1,1-Dimethylethyl 4-(chloroacetyl)-3-[hydroxy(diphenyl)methyl]piperazine-1-carboxylate
To a solution of 1,1-dimethylethyl 3-[hydroxy(diphenyl)methyl]-1-piperazine carboxylate (0.50 g, 1.4 mmol) in tetrahydrofuran (5 mL) were sequentially added diisopropylethylamine (2 mL) and chloroacetyl chloride (0.46 g, 4.1 mmol) with ice cooling, and the mixture was stirred for 4 hours while elevating the temperature to room temperature. To the reaction solution was added ethyl acetate, and the resulting mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain the title compound (0.28 g, yield 46%).

reactant | 1,1-dimethylethyl 3-[hydroxy(diphenyl)methyl]-1-piperazine carboxylate | 1.4 mmol, 0.50 g | OC(C1CN(CCN1)C(=O)OC(C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H28N2O3
reactant | diisopropylethylamine | 2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroacetyl chloride | 4.1 mmol, 0.46 g | ClCC(=O)Cl | C2H2Cl2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 4-(chloroacetyl)-3-[hydroxy(diphenyl)methyl]piperazine-1-carboxylate | 0.28 g, yield 46% | ClCC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C24H29ClN2O4
